US06548710B2
Preparation of 2-methyl-3H-benz[e]indene:
p-Toluenesulfonic acid (50 mg) was added to the organic layer, and the reaction mixture was heated under reflux with water separation for 1 h. After cooling to room temperature the organic layer was washed with sodium bicarbonate (aqueous 2 wt %, 50 ml), dried over magnesium sulfate, and concentrated under reduced pressure. The yield of 2-methyl-3H-benz[e]indene was 4.1 g or 89%.

reactant | p-Toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 2-methyl-3H-benz[e]indene | CC=1CC=2C=CC3=C(C2C1)C=CC=C3 | C14H12
